US06610688B2
Synthesis of 5-[4-(3-Chloro-4-fluoro-phenylamino)-6-oxo-6,7-dihydro-pyrrolo[2,3-D]pyrimidin-5-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (2-diethylamino-ethyl)-amide (Formula 28)
A mixture of 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one (66 mg, 0.24 mmol), 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide (63.7 mg, 0.24 mmol) and piperidine (1 drop) in ethanol (2 mL) was stirred at room temperature for 3 days. The precipitate was collected by vacuum filtration, washed with ethanol and dried to give 78.5 mg (62%) of the title compound. 1H NMR (360 MHz, DMSO-d6) δ 13.33 (br s, 1H, NH), 11.61 (br s, 1H, NH), 9.17 (br s, 1H), 8.29 (s, 1H), 7.69 (dd, J=2.5 & 6.5 Hz, 1H), 7.35 (m, 4H), 3.29 (m, 2H, CH2), 2.5 (m, 6H, N(CH2CH3)2 & CH2), 2.45 (s, 3H, CH3), 2.25 (s, 3H, CH3), 0.96 (t, J=7 Hz, 6H, N(CH2CH3)2). MS 526 [M++1].

reactant | 4-(3-chloro-4-fluoro-phenylamino)-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | 0.24 mmol, 66 mg | ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2)=O | C12H8ClFN4O
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylamino-ethyl)-amide | 0.24 mmol, 63.7 mg | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=O)C)CC | C14H23N3O2
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 5-[4-(3-Chloro-4-fluoro-phenylamino)-6-oxo-6,7-dihydro-pyrrolo[2,3-D]pyrimidin-5-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic Acid (2-diethylamino-ethyl)-amide | 78.5 mg, 62% | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=C1C(NC=2N=CN=C(C21)NC2=CC(=C(C=C2)F)Cl)=O)C)CC | C26H29ClFN7O2
